US04460596
6 g of ethyl 2-[2-(4-chlorophenyl)-5-(3-thienyl)-4-oxazolyl]acetate, 150 ml of methanol, 30 ml of water and 2.2 g of potassium hydroxide are treated in the same manner as described in Example 8. 4.9 g of 2-[2-(4-chlorophenyl)-5-(3-thienyl)-4-oxazolyl]acetic acid are thereby obtained.

reactant | ethyl 2-[2-(4-chlorophenyl)-5-(3-thienyl)-4-oxazolyl]acetate | 6 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C1=CSC=C1 | C17H14ClNO3S
reactant | methanol | 150 ml | CO | CH4O
reactant | potassium hydroxide | 2.2 g | [OH-].[K+]
solvent | water | 30 ml | O | H2O
product | 2-[2-(4-chlorophenyl)-5-(3-thienyl)-4-oxazolyl]acetic acid | 4.9 g, Yield: 89% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C1=CSC=C1 | C15H10ClNO3S
